US07342115B2
Step 2. Synthesis of (2,6-Dichloro-3-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridin-4-yl)-pyrrolidin-1-yl-methanone
A mixture of (2,6-dichloro-3-hydroxymethyl-pyridin-4-yl)-pyrrolidin-1-yl-methanone (400 mg, 1.45 mmol) and SOCl2 (1 mL) in CH2Cl2 (10 mL) is stirred at room temperature for 1 hour, and then concentrated. The residue is treated with K2CO3 (1.0 g, 7.2 mmol), CH3CN (10 mL) and (S)-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine (250 mg, 1.55 mmol). The resulting mixture is stirred at room temperature overnight. EtOAc (50 mL) and water (40 mL) are added to the residue. The organic layer is separated, washed once with brine, dried (Na2SO4) and concentrated. The residue is chromatographed on silica gel (4:1 hexane:EtOAc) to give the title compound.

reactant | (2,6-dichloro-3-hydroxymethyl-pyridin-4-yl)-pyrrolidin-1-yl-methanone | 1.45 mmol, 400 mg | ClC1=NC(=CC(=C1CO)C(=O)N1CCCC1)Cl | C11H12Cl2N2O2
reactant | SOCl2 | 1 mL | O=S(Cl)Cl | Cl2OS
reactant | K2CO3 | 7.2 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (S)-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine | 1.55 mmol, 250 mg | CN[C@H]1CCCC2=CC=CC=C12 | C11H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 40 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | (2,6-Dichloro-3-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridin-4-yl)-pyrrolidin-1-yl-methanone | ClC1=NC(=CC(=C1CN(C1CCCC2=CC=CC=C12)C)C(=O)N1CCCC1)Cl | C22H25Cl2N3O
